US07419975B2
Pyrrolidine-2-carbaldehyde-O-benzyl-oxime (B).
The solution of 2-(benzyloxyimino-methyl)-pyrrolidine-1-carboxylic acid tert-butyl ester (1.50 g, 4.92 mmole) and TFA (10 ml) in dichloromethane (10 ml) is stirred for 2 hours at room temperature. Solvent is removed. The crude product is carried to next step without further purification. M+H+=205.1

reactant | 2-(benzyloxyimino-methyl)-pyrrolidine-1-carboxylic acid tert-butyl ester | 4.92 mmole, 1.50 g | C(C)(C)(C)OC(=O)N1C(CCC1)C=NOCC1=CC=CC=C1 | C17H24N2O3
reactant | TFA | 10 ml | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | Pyrrolidine-2-carbaldehyde-O-benzyl-oxime | C(C1=CC=CC=C1)ON=CC1NCCC1 | C12H16N2O
